US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(pyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.060 g, 0.12 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and then concentrated to dryness. The resulting residue was purified by reverse phase HPLC (0 to 50% ACN in water, Gilson system). The resulting product was then dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide hydrochloride (0.019 g, 33% yield). 1H NMR (400 MHz, D2O) δ 8.69 (s, 1H), 8.57-8.56 (m, 1H), 8.50 (s, 1H), 8.04 (s, 1H), 7.60 (s, 1H), 3.70-3.62 (m, 1H), 3.55-3.50 (m, 1H), 3.42-3.39 (m, 1H), 3.31-3.29 (m, 1H), 2.83-2.80 (m, 1H), 2.19-2.16 (m, 1H), 1.92-1.89 (m, 1H), 1.73-1.69 (m, 1H), 1.49-1.47 (m, 1H); LCMS (APCI+) m/z 416, 418 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(pyrazine-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.12 mmol, 0.060 g | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NC=CN=C2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H26BrN7O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrazine-2-carboxamide hydrochloride | 0.019 g, 33% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2=NC=CN=C2 | InChI=1S/C17H18BrN7O.ClH/c18-11-6-22-16-14(15(11)25-5-1-2-10(19)9-25)12(8-23-16)24-17(26)13-7-20-3-4-21-13;/h3-4,6-8,10H,1-2,5,9,19H2,(H,22,23)(H,24,26);1H/t10-;/m1./s1
